US06451854B1
A solution of sodium nitrite (31.55 g) in water (70 ml) was added dropwise to a stirred solution of D-leucine (20 g) in 47% aqueous hydrobromic acid (140 ml)/water (211 ml) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 20 hours, then diluted with diethyl ether (600 ml). The organic layer was separated and washed with aqueous sodium metabisulphite (200 ml), dried over sodium sulphate, filtered and the solvent removed under reduced pressure to give 2-bromo-4-methyl-pentanoic acid as a yellow oil (27.6 g) [1H NMR (CDCl3): δ0.93 (d, 3H), 0.98 (d, 3H), 1.75-1.85 (m, 1H), 1.91-1.95 (m, 2H), 4.30 (t, 1H)]. Oxalyl chloride (9.56 ml) was added dropwise to a stirred solution of the 2-bromo-4-methylpentanoic acid (10.7 g) and pyridine (0.1 ml) in dichloromethane (60 ml). The reaction mixture was stirred for 20 hours and the solvent was removed under reduced pressure to give 2-bromo-4-methylpentanoyl chloride (12 g) [1H NMR (CDCl3); δ0.95 (d, 3H), 1.01 (d, 3H), 1.80-2.07 (m, 3H), 4.52 (t, 1H)]. A solution of this 2-bromo-4-methylpentanoyl chloride (12 g) in dichloromethane (40 ml) was added dropwise to a stirred solution of 2,6-dimethoxy-4-methylphenol (9.41 g) and triethylamine (15.6 ml) in dichloromethane (20 ml). The reaction mixture was stirred for 20 hours and was then chromatographed on silica gel, eluting with dichloromethane, to give the title compound as a viscous yellow oil (14.7 g).

reactant | Oxalyl chloride | 9.56 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-bromo-4-methylpentanoic acid | 10.7 g | BrC(C(=O)O)CC(C)C | C6H11BrO2
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-bromo-4-methylpentanoyl chloride | 12 g | BrC(C(=O)Cl)CC(C)C | C6H10BrClO
